### PR TITLE
chore: adaptations for nightly-2025-12-03

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Turan.lean [hunk 1]
```diff
@@ -222,8 +222,13 @@ lemma card_parts_le [DecidableEq V] : #h.finpartition.parts ≤ r := by
     contrapose! hn
     exact hz.injOn hv hw (by rwa [← h.not_adj_iff_part_eq])
   rw [Finset.card_eq_of_equiv hz.equiv] at ncf
+  exact absurd (h.1.mono (Nat.succ_le_of_lt l)) ncf
+
+/-- There are `min n r` parts in a graph on `n` vertices satisfying `G.IsTuranMaximal r`.
+`min` handles the `n < r` case, when `G` is complete but still `r + 1`-cliquefree
```
Comment (kbuzzard) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Turan.lean:228]: This diff makes no sense to me. How can be we adding precisely those four lines? Was the previous version of this repo just totally broken here?

File: Mathlib/Data/List/Chain.lean [hunk 2]
```diff
@@ -622,8 +623,13 @@ lemma IsChain.iterate_eq_of_apply_eq {α : Type*} {f : α → α} {l : List α}
 alias Chain'.iterate_eq_of_apply_eq := IsChain.iterate_eq_of_apply_eq
 
 theorem isChain_replicate_of_rel (n : ℕ) {a : α} (h : r a a) : IsChain r (replicate n a) := by
+  induction n using Nat.twoStepInduction <;> grind
+
+@[deprecated "Use `isChain_replicate_of_rel` with `n + 1` instead" (since := "2025-09-19")]
+alias chain_replicate_of_rel := isChain_replicate_of_rel
```
Comment (kbuzzard) [inline Mathlib/Data/List/Chain.lean:629]: Similarly here. What the heck is going on? Removing these four lines results in broken code.

**Review by kbuzzard — APPROVED** [review]
LGTM modulo my comments

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Turan.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/Combinatorics/SimpleGraph/Extremal/Turan.lean:228]: It seems so. I made a bad merge of master.

File: Mathlib/Data/List/Chain.lean (hunk 2 above)
Comment (kim-em) [reply Mathlib/Data/List/Chain.lean:629]: Again.

**Comment by kim-em** [comment]
Sigh, we've moved on again.

**Comment by kbuzzard** [comment]
Do we need a better system? It's not entirely clear to me who is reading this thread, and I am not competent enough to review some of the stuff in these PRs.
